US07687645B2
5-Butoxycarbonylphtalide
Oleum (25% SO3, 95 ml) is charged into a reactor (350 ml). Under stirring terephthalic acid (19.0 g; 0.11 mol) is added to the reactor and the mixture is heated to 60° C. After stirring for additional 30 min terephthalic acid (31.0 g; 0.19 mol) is added and the mixture is heated to 100° C. for 1 hour. The mixture is cooled to 25-30° C., trioxane (12.0 g; 0.13 mol) is added in portions and the reaction mixture is heated slowly to 130-135° C. and agitated at this temperature for 1½ hours and for 4 hours at 155° C. The reaction mixture is cooled to 40° C. and added to a reactor containing butanol (150 ml) and heptanes (150 ml) witch has been heated to 95-100° C. The formed precipitates were diluted with butanol (85 ml) and stirring overnight. The precipitate is filtered off and dried.

reactant | Oleum | 95 ml | OS(=O)(=O)O.O=S(=O)=O
reactant | terephthalic acid | 0.19 mol, 31.0 g | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | trioxane | 0.13 mol, 12.0 g | O1OOCCC1 | C3H6O3
reactant | butanol | 150 ml | C(CCC)O | C4H10O
product | 5-Butoxycarbonylphtalide | C(CCC)OC(=O)C=1C=C2COC(=O)C2=CC1 | C13H14O4
